US09062032B2
A mixture of 0.07 mL of lithium hexamethyldisilazide (1.0M in THF) and 0.2 mL of THF was added to a mixture of 11.5 mg of 2-[3-(morpholin-4-ylmethyl)phenyl]-5,6,7,8-tetrahydro-4H-[1]benzothieno[2,3-d][1,3]oxazin-4-one, 4.9 mg of 5-cyclopropyl-1,3,4-thiadiazol-2-amine, and 0.8 mL of THF, followed by stirring overnight at room temperature. Chloroform and a saturated aqueous ammonium chloride solution were added to the reaction mixture, and the organic layer was separated. After the solvent was removed under reduced pressure, the obtained residue was purified, thereby obtaining 11.4 mg of N-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide.

reactant | lithium hexamethyldisilazide | 1.0M, 0.07 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 2-[3-(morpholin-4-ylmethyl)phenyl]-5,6,7,8-tetrahydro-4H-[1]benzothieno[2,3-d][1,3]oxazin-4-one | 11.5 mg | N1(CCOCC1)CC=1C=C(C=CC1)C=1OC(C2=C(N1)SC1=C2CCCC1)=O | C21H22N2O3S
reactant | 5-cyclopropyl-1,3,4-thiadiazol-2-amine | 4.9 mg | C1(CC1)C1=NN=C(S1)N | C5H7N3S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 0.8 mL | C1CCOC1 | C4H8O
solvent | THF | 0.2 mL | C1CCOC1 | C4H8O
product | N-(5-cyclopropyl-1,3,4-thiadiazol-2-yl)-2-{[3-(morpholin-4-ylmethyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophene-3-carboxamide | 11.4 mg | C1(CC1)C1=NN=C(S1)NC(=O)C1=C(SC2=C1CCCC2)NC(C2=CC(=CC=C2)CN2CCOCC2)=O | C26H29N5O3S2
